US04492711
To a suspension of 13 g of 3-nitro-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide and 8 g of metallic iron, previously washed with 2N hydrochloric acid, in a mixture of 50 ml of water and 50 ml of methanol, concentrated hydrochloric acid is added dropwise and under stirring until pH 5, then the mixture is heated two hours with reflux. After cooling, the precipitate is filtered and thoroughly washed with methanol. The solution so obtained is evaporated under reduced pressure to eliminate the methanol. The pH of the aqueous solution is adjusted to 10 with sodium hydroxide and the inorganic precipitate which forms is eliminated after washing with ethanol. The solution is extracted 4 times with 40 ml of ethyl acetate containing 10% of ethanol, the solution is dried on anhydrous sodium sulfate and evaporated to dryness. Thus, 9 g of 3-amino-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide are obtained as an oil.

reactant | 3-nitro-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | 13 g | [N+](=O)([O-])C=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1 | C17H21N3O4S
catalyst | iron | 8 g | [Fe] | Fe
product | 3-amino-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | 9 g | NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1 | C17H23N3O2S
